************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: NAND4BXL
* View Name:     schematic
* Netlisted on:  Jun  4 07:45:44 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    NAND4BXL
* View Name:    schematic
************************************************************************

.SUBCKT NAND4BXL AN B C D VDD VSS Y
*.PININFO AN:I B:I C:I D:I VDD:I VSS:I Y:O
Mmn4 Y D net130 VSS g45n1svt m=1 l=45n w=145n
Mmn2 net126 B net122 VSS g45n1svt m=1 l=45n w=145n
Mmn1 net122 net118 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 net118 AN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn3 net130 C net126 VSS g45n1svt m=1 l=45n w=145n
Mmp4 Y D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 Y net118 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp2 Y B VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 net118 AN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 Y C VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

