************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: NAND3X6
* View Name:     schematic
* Netlisted on:  Jun  4 07:45:27 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    NAND3X6
* View Name:    schematic
************************************************************************

.SUBCKT NAND3X6 A B C VDD VSS Y
*.PININFO A:I B:I C:I VDD:I VSS:I Y:O
Mmn1 n0 B n1 VSS g45n1svt m=1 l=45n w=1.55u
Mmn2 Y C n0 VSS g45n1svt m=1 l=45n w=1.55u
Mmn0 n1 A VSS VSS g45n1svt m=1 l=45n w=1.55u
Mmp0 Y A VDD VDD g45p1svt m=1 l=45n w=2.34u
Mmp1 Y B VDD VDD g45p1svt m=1 l=45n w=2.34u
Mmp2 Y C VDD VDD g45p1svt m=1 l=45n w=2.34u
.ENDS

